Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
dapsone
 
Attending: ___.
 
Chief Complaint:
rash, diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ year-old lady with a history of DLBCL
(tr.follicular) ___ alloSCT c/b MDS who presents with worsening
erythrodermic rash and diarrhea. 

Over the past 3 weeks she has developed a new erythematous rash
that has been extending throughout her body and is new
eythrodermic. She has a biopsy on ___ favoring GVHD vs. drug
eruption prompting course of prednisone 20mg without 
improvement.
Yesterday she had 4 episodes of non-bloody non-mucoid diarrhea
prompting call to her oncologist's office who referred her to 
ED.
 
Past Medical History:
- Treatment-Related MDS after transformed follicular lymphoma
- CVID, received IVIG monthly; last given ___
- GERD                                          
- Osteoarthritis                                         
- DVT, right lower extremity, IVC filter in place
- Cervical radiculopathy
- Sciatica
- Obstructive sleep apnea, wears CPAP
- H/O cerebral aneurism, noted on MRA with small R internal
carotid cavernous sinus aneurysm; coil placed in the aneurysm
(___).  On Neurontin.  Exam notable for slight CN 6 palsy of
the right eye, mild proptosis of the right eye, and hyperthesia
of the right V1 distribution
- Asthma
- Obesity
- Hypertension
- Migraines
- + RSV, ___
- History of osteomyelitis with IV antibioitcs for 6
weeks. 
 
Social History:
___
Family History:
Brother with lymphoma, died at age ___. Father had CAD and DM. 
Mother had CHF.

 
Physical Exam:
ADMISSION EXAM
==========================
VS: 98.4 PO 134 / 69 L Sitting 90 18 98 RA 
GENERAL: Well- appearing lady, in no distress lying in bed
comfortably.
HEENT: Anicteric, PERLL, Mucous membranes moist, oropharynx
clear.
CARDIAC: Regular rate and rhythm, no murmurs, rubs or gallops.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Non-distended, normal bowel sounds, soft, non-tender, no
guarding, no palpable masses, no organomegaly.
EXT: Warm, well perfused. No lower extremity edema. No
tenderness.
NEURO: Alert and oriented, good attention,  linear thought
process. CN II-XII intact. Strength full throughout. Sensation 
to
light touch intact.
SKIN: Patchy erythrodermic erythematous rash. 
 
DISCHARGE EXAM
==========================
VITALS: 98.6 128/72 93 20 97 Ra 
GENERAL: NAD, sitting comfortably in chair 
HEENT: strabismus, right ptosis, anicteric, oropharynx clear
CV: RRR, S1/S2, no m/r/g
PULM: unlabored, CTAB
GI: obese, soft, normoactive, nondistended, nontender, no
rebound/guarding
EXT: WWP, trace distal leg edema
SKIN: erythema and scaling nearly resolved
 
Pertinent Results:
PERTIENT STUDIES
=============================
___ Pathology Tissue: SKIN, LEVELS X4 ON 2 SLIDES:
 
PATHOLOGIC DIAGNOSIS:
Skin, right abdomen (1A):
Focal vacuolar interface dermatitis with superficial 
perivascular lymphocytic inflammation, apoptotic
keratinocytes and lymphocyte exocytosis (see note).
Note: The histopathologic findings are favored to represent 
graft-versus-host disease. Less likely,
the differential diagnosis includes a drug eruption. Sections 
show superficial perivascular
lymphocytic inflammation with exocytosis of lymphocytes into the 
epidermis. There are scattered
apoptotic keratinocytes, some with satellite cell necrosis. 
Focal parakeratosis is present. Epidermal
dysmaturation is seen which may be related to prior 
chemotherapeutic agents. No fungi are seen on
PAS stain. Initial and multiple additional levels were examined.
 
ADMISSION LABS
=============================
___ 04:00PM BLOOD WBC-6.0 RBC-3.49* Hgb-12.3 Hct-37.5 
MCV-107* MCH-35.2* MCHC-32.8 RDW-15.3 RDWSD-61.2* Plt ___
___ 04:00PM BLOOD Neuts-85.0* Lymphs-10.4* Monos-3.2* 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-5.12# AbsLymp-0.63* 
AbsMono-0.19* AbsEos-0.02* AbsBaso-0.02
___ 04:00PM BLOOD ___ PTT-33.4 ___
___ 04:00PM BLOOD Glucose-103* UreaN-23* Creat-1.2* Na-140 
K-4.6 Cl-104 HCO3-23 AnGap-13
___ 04:00PM BLOOD ALT-32 AST-25 AlkPhos-124* TotBili-0.3
___ 04:00PM BLOOD Albumin-3.9 Calcium-8.6 Phos-3.0 Mg-2.0
___ 04:17PM BLOOD Lactate-1.8
___ 06:35PM URINE Color-Straw Appear-Clear Sp ___
___ 06:35PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 06:35PM URINE RBC-<1 WBC-4 Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 06:35PM URINE
___ 06:35PM URINE Hours-RANDOM
 
PERTINENT LABS
=============================
___ 01:45AM BLOOD WBC-9.2 RBC-3.13* Hgb-10.9* Hct-33.1* 
MCV-106* MCH-34.8* MCHC-32.9 RDW-14.9 RDWSD-58.2* Plt ___
___ 03:20PM BLOOD Glucose-175* UreaN-33* Creat-1.4* Na-139 
K-5.7* Cl-105 HCO3-24 AnGap-10
___ 01:45AM BLOOD Glucose-122* UreaN-32* Creat-1.1 Na-140 
K-4.7 Cl-107 HCO3-24 AnGap-9*
___ 09:20AM BLOOD Cyclspr-58*
___ 09:40AM BLOOD Cyclspr-51*
___ 07:00AM BLOOD CMV VL-NOT DETECT
 
DISCHARGE LABS
=============================
___ 01:45AM BLOOD WBC-9.2 RBC-3.13* Hgb-10.9* Hct-33.1* 
MCV-106* MCH-34.8* MCHC-32.9 RDW-14.9 RDWSD-58.2* Plt ___
___ 01:45AM BLOOD Neuts-78.2* Lymphs-12.5* Monos-7.4 
Eos-0.0* Baso-0.1 NRBC-0.2* Im ___ AbsNeut-7.22* 
AbsLymp-1.15* AbsMono-0.68 AbsEos-0.00* AbsBaso-0.01
___ 01:45AM BLOOD Plt ___
___ 01:45AM BLOOD Glucose-122* UreaN-32* Creat-1.1 Na-140 
K-4.7 Cl-107 HCO3-24 AnGap-9*
___ 01:45AM BLOOD ALT-30 AST-23 LD(LDH)-205 AlkPhos-112* 
TotBili-0.2
___ 01:45AM BLOOD Calcium-8.3* Phos-3.9 Mg-2.0
 
PERTINENT MICRO
=============================
___ 9:54 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 
 

 
 
___ 9:54 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   MICROSPORIDIA STAIN (Final ___:    NO MICROSPORIDIUM 
SEEN. 

   CYCLOSPORA STAIN (Final ___:    NO CYCLOSPORA SEEN. 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 
 
Brief Hospital Course:
___ female with history of diffuse large B-cell lymphoma 
complicated by secondary myelodysplastic syndrome status-post 
allogeneic stem cell transplant complicated by combined variable 
immunodeficiency status-post IVIG, CMV viremia status-post 
ganciclovir/valganciclovir and S. epidermidis bactermia 
status-post daptomycin, new deep venous thrombosis, on Lovenox, 
and recent biopsy-proven acute skin graft-versus-host disease, 
on triamcinolone / prednisone, admitted for (1) worsening skin 
erythema, which resolved with high-dose corticosteroids and (2) 
diarrhea, which spontaneously resolved upon admission.

#) Skin graft-versus-host disease, acute, grade III: punch 
biopsy (___) favoring GvHD versus drug eruption. Acute 
worsening of generalized eryhtroderma with xerosis/desquamation 
in days preceding admission despite use of 
triamcinolone/prednisone. No cellulitic changes. Erythema 
regressed with five-day course of methylprednisolone 1 mg/kg in 
combination with topical triamcinolone 0.1%/hydrocortisone 1% 
(face), which was converted to prednisone 100 -> 80 mg daily 
thereafter. Further taper plan to be determined as outpatient. 
Hydroxyzine, Sarna, and emollients added for symptomatic care.

#) Diarrhea, non-bloody: concern for acute gut GvHD, though 
spontaneously resolved prior to start of high-dose 
corticosteroids. Of note, recent protracted antibiotic course, 
though C. difficile negative. CMV viral load and stool studies 
likewise negative. Stool volume normal throughout duration of 
hospital course. Flexible sigmoidoscopy not pursued in that 
regard.

#) ___: Cr bumped to 1.4 shortly prior to discharge. Unclear 
etiology though most suspicious for cyclosporine effect vs. 
hypovolemia. Non-fluid responsive to 1L bolus; urine studies 
with intrinsic renal picture. Spontaneously resolved within 24 
h. Of note, given fluid bolus in setting of HFrEF and concurrent 
steroids patient was mildly volume overloaded at time of 
discharge. No shortness of breath; O2 saturation normal. 
Discharged with 20 mg PO Lasix.

#) DLBCL c/b secondary MDS ___ MUD allogeneic SCT, in remission: 
100% chimerism ___ surveillance bone marrow biopsy with 
normal trilineage maturation. DLBCL also in remission by 
surveillance CT. Complications, as delineated above. 
Cyclosporine as well as acyclovir, fluconazole, and TMP/SMX all 
continued. 

#) Hyperkalemia, mild: suspect iatrogenic secondary to 
cyclosporine and TMP/SMX. 

CHRONIC/STABLE ISSUES
==============================

#) DVT, bilateral lower extremity: on therapeutic Lovenox, as of 
___. Of note, ___ IVC filter (___) for prior DVT. Lovenox 80 
mg SC Q12H continued. 

#) ICA cavernous sinus aneurysm, right: ___ coil embolization 
c/b CN VI palsy, ptosis, V1 hyperesthesia. Home gabapentin 
continued. 

#) GERD: home omeprazole continued.

#) OSA: nocturnal CPAP

TRANSITIONAL ISSUES
===============================
 [ ] Discharged on prednisone 80 mg daily. Please arrange for 
taper as outpatient.

 [ ] Mildly volume overloaded at time of discharge due to 
concurrent steroids and fluids with history of CHF. No shortness 
of breath; O2 saturation normal. Discharged with 20 mg PO Lasix. 
Please increase or discontinue as needed.

 [ ] Monitor ongoing use of topical steroids and ensure 
discontinued after appropriate treatment course completed.

 [ ] Discharged on cyclosporine 50 mg q12 hours. Please monitor 
levels and dose-adjust as needed.

 [ ] Prophylactic fluconazole increased to 400 mg daily.

 [ ] Vitamin D added for skeletal protection.

#CODE: full (presumed)
#CONTACT: ___ (daughter: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 4 mg PO Q8H:PRN nausea 
2. PredniSONE 20 mg PO DAILY 
3. Magnesium Oxide 400 mg PO DAILY 
4. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
5. Fluconazole 200 mg PO Q24H 
6. Senna 8.6 mg PO BID:PRN constipation 
7. Cephalexin ___ mg PO PRN dental procedure 
8. Enoxaparin Sodium 80 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
9. CycloSPORINE (Neoral) MODIFIED 50 mg PO Q12H 
10. Acyclovir 400 mg PO Q8H 
11. Omeprazole 20 mg PO DAILY 
12. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
13. FoLIC Acid 1.6 mg PO DAILY 
14. Gabapentin 400 mg PO BID 

 
Discharge Medications:
1.  Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*14 Tablet 
Refills:*0 
2.  Hydrocortisone Cream 1% 1 Appl TP BID 
RX *hydrocortisone 1 % apply as directed twice daily Refills:*0 
3.  HydrOXYzine 25 mg PO QHS:PRN Itching 
RX *hydroxyzine HCl 25 mg 1 tablet by mouth at night Disp #*30 
Tablet Refills:*0 
4.  Ketoconazole Shampoo 1 Appl TP BID 
RX *ketoconazole 2 % apply as directed twice daily Refills:*0 
5.  Sarna Lotion 1 Appl TP QID:PRN Itching 
RX *camphor-menthol [Sarna Anti-Itch] 0.5 %-0.5 % apply as 
directed four times daily Refills:*0 
6.  Vitamin D 1000 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
7.  Fluconazole 400 mg PO Q24H 
RX *fluconazole 200 mg 2 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*0 
8.  PredniSONE 80 mg PO DAILY 
RX *prednisone 20 mg 4 tablet(s) by mouth daily Disp #*28 Tablet 
Refills:*0 
9.  Acyclovir 400 mg PO Q8H  
10.  Cephalexin ___ mg PO PRN dental procedure  
11.  CycloSPORINE (Neoral) MODIFIED 50 mg PO Q12H  
12.  Enoxaparin Sodium 80 mg SC Q12H  
13.  FoLIC Acid 1.6 mg PO DAILY  
14.  Gabapentin 400 mg PO BID  
15.  Magnesium Oxide 400 mg PO DAILY  
16.  Omeprazole 20 mg PO DAILY  
17.  Ondansetron 4 mg PO Q8H:PRN nausea  
18.  Senna 8.6 mg PO BID:PRN constipation  
19.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
20.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
-Skin graft-versus-host-disease, acute 

SECONDARY
-MDS, secondary 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
-You had worsening graft-versus-host-disease of your skin.
-You had diarrhea.

WHAT HAPPENED IN THE HOSPITAL?
-You received steroids and your rash improved.

WHAT SHOULD YOU DO AT HOME?
-Please take your steroids as directed
-Continue to use triamcinolone (steroid) cream on your BODY only
-Continue to use hydrocortisone (steroid) cream on your FACE
-Take your cyclosporine and prophylactic medications as directed
-Follow-up with your primary oncologist and dermatologist

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team
 
Followup Instructions:
___